US06071903
Methyl 2-{(4-Methoxybenzenesulfonyl)-[2-(2,2,2-trifluoroacetylamino)benzyl]amino}acrylate
To a suspension of 1.0 g (2.54 mmol) of methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate in 10 ml of toluene was added 1.8 ml (12.7 mmol) of trifluoroacetic anhydride (solid dissolves). The solution was stirred for 2 hours at room temperature and heated at 100° C. overnight. The mixture was then concentrated to dryness under vacuum. To the residue was added 0.9 ml of trifluoroacetic anhydride and the solution stirred at room temperature for 1.5 hours and concentrated to dryness. To the residue was added 10 ml of toluene and the mixture refluxed for 2 hours. The solution was cooled to room temperature and 2.5 ml of triethylamine added and the mixture stirred at room temperature overnight. The solution was concentrated to dryness and the residue dissolved in ethyl acetate. The ethyl acetate was washed with H2O, brine and dried (Na2SO4). The solvent was removed under vacuum to give 1.0 g of colorless oil. Crystallization from ethyl acetate-hexane gave 0.625 g of colorless crystals, m.p. 120-121° C. Anal. for C20H19F3N2O6S: Calc'd: C,50.9; H,4.1; N,5.9; S,6.7; F,12.1; Found: C,50.8; H,4.2; N,5.6; S,6.8; F,11.9; Mass spectrum (ES) 473.1 (M+H).

reactant | methyl 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate | 2.54 mmol, 1.0 g | NC1=C(CN(C(C(=O)OC)CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C18H22N2O6S
reactant | trifluoroacetic anhydride | 12.7 mmol, 1.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-{(4-Methoxybenzenesulfonyl)-[2-(2,2,2-trifluoroacetylamino)benzyl]amino}acrylate | 1.0 g | COC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)OC)=C)CC1=C(C=CC=C1)NC(C(F)(F)F)=O | C20H19F3N2O6S
